US08461339B2
(6-Methoxy-isoquinolin-3-yl)-(4-pyrrolidin-1-ylmethyl-pyridin-2-yl)-amine
Pd2(dba)3(102 mmg, 0.11 mmol) and xantphos (92 mg, 0.16 mmol) were added to a solution of 6-methoxyisoquinolin-3-amine (195 mg, 1.12 mmol) (Preparation C-10), 2-chloro-4-pyrrolidin-1-ylmethyl-pyridine (220 mg, 1.12 mmol) (Preparation B-11) and Cs2CO3 (500 mg, 1.53 mmol) in toluene (50 mL). The suspension was heated under reflux overnight, and THF (50 mL) was added in to dilute the mixture. After filtration, the filtrate was concentrated. The crude material was further purified by silica gel chromatography (EtOAc/Hexane=1/1) and afforded the title compound (150 mg, 40% yield) as a yellow solid. 1H NMR (300 MHz, DMSO-d6): 8.84 (s, 1H), 8.27˜8.29 (m, 2H), 7.73 (d, J=8.7 Hz, 1 H), 7.60 (bs, 1H), 6.99˜7.08 (m, 3H), 7.02 (s, 1H), 6.86 (d, J=5.1 Hz, 1H), 3.94 (s, 3H), 3.62 (s, 2H), 2.58 (m, 4H), 1.83 (m, 4H); MS: m/z 335.2 (M+H+).

reactant | xantphos | 0.16 mmol, 92 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 6-methoxyisoquinolin-3-amine | 1.12 mmol, 195 mg | COC=1C=C2C=C(N=CC2=CC1)N | C10H10N2O
reactant | 2-chloro-4-pyrrolidin-1-ylmethyl-pyridine | 1.12 mmol, 220 mg | ClC1=NC=CC(=C1)CN1CCCC1 | C10H13ClN2
reactant | Cs2CO3 | 1.53 mmol, 500 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.11 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (6-Methoxy-isoquinolin-3-yl)-(4-pyrrolidin-1-ylmethyl-pyridin-2-yl)-amine | 150 mg, 40% yield | COC=1C=C2C=C(N=CC2=CC1)NC1=NC=CC(=C1)CN1CCCC1 | C20H22N4O
